US07754759B2
(R)-(7-Benzenesulfonyl-chroman-2-ylmethyl)-((R)-1-phenyl-ethyl)-amine
Methanesulfonic acid (R)-7-(3-fluoro-benzenesulfonyl)-chroman-2-ylmethyl ester (1.43 g, 3.7 mmol) and (R)-1-phenyl ethylamine (3 mL) were added to NMP (5 mL), and the reaction mixture was stirred for 18 hours at 110° C. The reaction mixture was cooled to room temperature, quenched by addition of water, and made basic to pH 14 by addition of 1M aqueous NaOH. The mixture was extracted with diethyl ether, and the combined organic layers were washed with brine, dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was purified by flash chromatography (0-30% EtOAc/hexanes) to give 1.2 g of (R)-(7-benzenesulfonyl-chroman-2-ylmethyl)-((R)-1-phenyl-ethyl)-aminel, MS (M+H)=408.

reactant | Methanesulfonic acid (R)-7-(3-fluoro-benzenesulfonyl)-chroman-2-ylmethyl ester | 3.7 mmol, 1.43 g | FC=1C=C(C=CC1)S(=O)(=O)C1=CC=C2CC[C@@H](OC2=C1)COS(=O)(=O)C | C17H17FO6S2
reactant | (R)-1-phenyl ethylamine | 3 mL | C1(=CC=CC=C1)[C@@H](C)N | C8H11N
solvent | NMP | 5 mL | CN1CCCC1=O | C5H9NO
product | (R)-(7-Benzenesulfonyl-chroman-2-ylmethyl)-((R)-1-phenyl-ethyl)-amine | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C2CC[C@@H](OC2=C1)CN[C@H](C)C1=CC=CC=C1 | C24H25NO3S
